US04959366
(B) N,N-Bis(4-aminophenethyl)methylamine
A solution of N,N-bis-(4-nitrophenethyl)methylamine (1.2 g, 3.6 mmol) in ethanol (50 ml) containing 5% Pd/C (0.15 g) was stirred under a hydrogen atmosphere (50 p.s.i.) for 4 hours. The reaction mixture was filtered and the solvent evaporated to give the title compound as an oil, yield 1.0 g, which was used directly without further purification.

reactant | N,N-bis-(4-nitrophenethyl)methylamine | 3.6 mmol, 1.2 g | [N+](=O)([O-])C1=CC=C(CCCNCCCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C18H21N3O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | N,N-Bis(4-aminophenethyl)methylamine | NC1=CC=C(CCCNCCCC2=CC=C(C=C2)N)C=C1 | C18H25N3
